US08080552B2
A mixture of 570 mg (2.03 mmol) 2-methylsulfanyl-4-(3-fluoro-4-nitrophenoxy)-pyrimidine, 10 ml ethanol, 10 ml THF, and 200 mg 10% palladium/C is hydrogenated at 50 mbar hydrogen pressure at r.t. for 8 h. The catalyst was removed by filtration, washed with 10 ml ethanol and evaporated. The residue was purified by chromatography on silica (ethyl acetate/n-heptane 1:2) to give 200 mg (39%) 2-fluoro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine.

reactant | 2-methylsulfanyl-4-(3-fluoro-4-nitrophenoxy)-pyrimidine | 2.03 mmol, 570 mg | CSC1=NC=CC(=N1)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C11H8FN3O3S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 200 mg | [Pd] | Pd
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-fluoro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine | 200 mg, 39% | FC1=C(C=CC(=C1)OC1=NC(=NC=C1)SC)N | C11H10FN3OS
